US07517875B2
After dissolving 1-Boc-4-aminomethylpiperidine (2140 mg, 10 mmol) in tetrahydrofuran (25 ml), FmocNCS (3091 mg, 11 mmol) was added and the mixture was stirred at room temperature overnight. Upon completion of the reaction, the reaction mixture was concentrated, and then purified by silica gel column chromatography (hexane/ethyl acetate=85/15→4/1) to obtain [({[fluoren-9-ylmethoxy]carbonylamino}thioxomethyl)amino]methyl]piperidinecarboxylic acid tert-butyl ester. The compound was identified by LC-MS.

reactant | 1-Boc-4-aminomethylpiperidine | 10 mmol, 2140 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)CN | C11H22N2O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | piperidinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCCC1 | C10H19NO2
